US08431695B2
Step 1: Preparation of 2-benzyl-6-bromo-1-methyl-1H-benzimidazole
Powdered KOH (5.25 g, 93.50 mmol) was added to a stirred solution of 2-benzyl-5-bromo-1H-benzimidazole (5.37 g, 8.70 mmol) in acetone (100 mL), after 10 min, iodomethane (1.28 mL, 20.57 mmol) was added and the mixture was stirred for 1 h and diluted with DCM. The mixture was washed with water and brine, then dried over Na2SO4 and concentrated. The residue was taken up in DCM and hexanes and the resulting suspension filtered. The filtrate was concentrated and the oily residue taken up in hexanes and stirred for about 1 h. The resulting solid was filtered and the filter cake washed with hexanes and dried (2.0 g, 34%). LC-MS [M+H]+=302.1, RT=2.47 min.

reactant | KOH | 93.50 mmol, 5.25 g | [OH-].[K+]
reactant | 2-benzyl-5-bromo-1H-benzimidazole | 8.70 mmol, 5.37 g | C(C1=CC=CC=C1)C1=NC2=C(N1)C=CC(=C2)Br | C14H11BrN2
reactant | iodomethane | 20.57 mmol, 1.28 mL | IC | CH3I
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-benzyl-6-bromo-1-methyl-1H-benzimidazole | C(C1=CC=CC=C1)C1=NC2=C(N1C)C=C(C=C2)Br | C15H13BrN2
